US06498172B1
3-(3-{[(4-Pyrazol-1-yl-benzyl)-(pyridine-2-sulfonyl)-amino]-methyl}-phenyl)-propionic acid methyl ester.
The title compound of Step A was prepared from 3-{3-[(4-pyrazol-1-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester, prepared in Step A of Example 11o, and pyridine-2-sulfonyl chloride hydrochloride, of Preparation 47, following the method described in Example 1, Step B using triethylamine in place of N,N-diisopropylethylamine. 1H NMR (400 MHz, CDCl3) δ 8.66 (m, 1H), 7.96 (m, 1H), 7.85 (m, 2H), 7.68 (d, 1H), 7.50 (d, 2H), 7.46 (m, 1H), 7.16 (d, 2H), 7.09 (m, 1H), 6.99 (d, 1H), 6.92 (d, 1H), 6.88 (s, 1H), 6.43 (m, 1H), 4.48 (s, 2H), 4.44 (s, 2H), 3.63 (s, 3H), 2.78 (t, 2H), 2.48 (t, 2H); MS 491 (M+1).

reactant | 3-{3-[(4-pyrazol-1-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC1=CC=C(C=C1)N1N=CC=C1)=O | C21H23N3O2
reactant | pyridine-2-sulfonyl chloride hydrochloride | Cl.N1=C(C=CC=C1)S(=O)(=O)Cl
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(3-{[(4-Pyrazol-1-yl-benzyl)-(pyridine-2-sulfonyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CN(S(=O)(=O)C1=NC=CC=C1)CC1=CC=C(C=C1)N1N=CC=C1)=O | C26H26N4O4S
